US04908394
To a mixture of 212 g of 2,4-dinitrobenzoic acid in 300 ml of toluene were added 38 g of concentrated sulfuric acid and 230 ml of isobutyl alcohol. The mixture was refluxed for 10 hrs and the resulting water removed by azeotropic distillation. After this period the mixture was cooled to room temperature and washed with 1000 ml of an aqueous 5% NaHCO3 solution followed by two 500 ml water washings. The toluene was removed at reduced pressure and the resulting dark oil was washed with hexane to yield 252 g of isobutyl-2,4-diaminobenzoate, a fluffy white crystalline solid, mp 54°-55° C.

reactant | 2,4-dinitrobenzoic acid | 212 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | sulfuric acid | 38 g | S(O)(O)(=O)=O | H2O4S
reactant | isobutyl alcohol | 230 ml | C(C(C)C)O | C4H10O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | isobutyl-2,4-diaminobenzoate | 252 g | C(C(C)C)OC(C1=C(C=C(C=C1)N)N)=O | C11H16N2O2
